US08669361B2
Reaction of 5-chloro-1-methyl-4-nitro-1H-pyrazole and 3-fluoropiperidine hydrochloride gave 3-fluoro-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)piperidine as a yellow oil (0.27 g, 97%). 1H NMR (400 MHz, CDCl3) δ 8.02 (s, 1H), 4.88-4.71 (m, 1H), 3.79 (s, 3H), 3.47 (ddd, J=29.8, 12.8, 2.1 Hz, 1H), 3.32-3.15 (m, 2H), 3.07-2.99 (m, 1H), 2.11-1.99 (m, 2H), 1.95-1.76 (m, 1H), 1.74-1.62 (m, 1H)

reactant | 5-chloro-1-methyl-4-nitro-1H-pyrazole | ClC1=C(C=NN1C)[N+](=O)[O-] | C4H4ClN3O2
reactant | 3-fluoropiperidine hydrochloride | Cl.FC1CNCCC1
product | 3-fluoro-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)piperidine | 0.27 g, 97% | FC1CN(CCC1)C1=C(C=NN1C)[N+](=O)[O-] | C9H13FN4O2
